US05166206
3-OXOHEPTANENITRILE
To a mechanically stirred solution of 14.3 g MgSO4 -dried cyanoacetic acid and ~100 mg 1,10-phenanthroline in 500 mL THF at -78° C. was added 60 mL 2.5M n-butyllithium in hexanes (~one half of the total). The indicator color persisted at this point. The solution was warmed to -5° to +5° C. after which the indicator color disappeared. Another 55 mL 2.5M n-butyllithium in hexanes was added until the indicator color again persisted. The mixture was cooled to -78° C. then 10.0 mL valeroyl chloride in 10 mL THF was added over 3 minutes. After 10 minutes the now yellow solution was allowed to warm to room temperature and stir for 1 hour. The mixture was poured into a solution of 50 mL concentrated HCl in 300 mL water. The mixture was extracted 3 times with ether. The combined organic material was washed twice with saturated NaHCO3 solution then once with brine. The washes were back extracted with ether and the back extracts were washed with brine. The back extracts were combined with the other organic material and then were dried over MgSO4. The organic material was stripped of solvent in vacuo then was distilled at ~1 Torr with the title compound distilling at 87°-91° C. The title compound was isolated as a clear oil, 6.32 g, 60% yield. To this material there was added 1% by weight BHT to prevent polymerization. The material was also kept refrigerated at 0° C. under nitrogen. Rf 0.18 in 20% EtOAc/hexane, visualized by ninhydrin stain; 1H-NMR (300 MHz, CDCl3): δ3.46 (s, 2H), 2.62 (3 line m, 2H), 1.61 (m, 2H), 1.35 (m, 2H), 0.92 (t, J=7.3 Hz, 3H); 13C-NMR (75.4 MHz, CDCl3): δ197.6, 113.8, 41.9, 31.9, 25.3, 22.0, 13.7.

reactant | MgSO4 | 14.3 g | [O-]S(=O)(=O)[O-].[Mg+2]
reactant | 1,10-phenanthroline | ~100 mg | N1=CC=CC2=CC=C3C=CC=NC3=C12 | C12H8N2
reactant | n-butyllithium | 2.5M, 60 mL | C(CCC)[Li]
reactant | n-butyllithium | 2.5M, 55 mL | C(CCC)[Li]
reactant | valeroyl chloride | 10.0 mL | C(CCCC)(=O)Cl | C5H9ClO
reactant | HCl | 50 mL | Cl | ClH
solvent | THF | 500 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | water | 300 mL | O | H2O
product | 3-OXOHEPTANENITRILE | 60% yield | O=C(CC#N)CCCC | C7H11NO
